US09169212B2
To a solution of 4-(cyclopropoxy)-3-[(6-hydroxy-1,4-oxazepan-4-yl)sulfonyl]benzoic acid (170.00 mg, 475.68 umol, 1.00 eq) and 3-chloro-4-fluoro-aniline (69.24 mg, 475.68 umol, 1.00 eq) in DMF (5.00 mL) were added HATU (180.87 mg, 475.68 umol, 1.00 eq) and DIPEA (122.95 mg, 951.36 umol, 2.00 eq). The mixture was stirred at 25° C. for 16 hr. TLC detected the reaction was complete, the mixture was poured into water, extracted with EA, the combined organic layer was dried over anhydrous Na2SO4, concentrated, the residue was purified by prep-HPLC (FA) to afford product N-(3-chloro-4-fluoro-phenyl)-4-(cyclopropoxy)-3-[(6-hydroxy-1,4-oxazepan-4-yl)sulfonyl]benzamide (94.10 mg, 194.05 umol, 40.79% yield) as white solid. 1H NMR (400 MHz, MeOD) δ 8.48 (d, J=2.01 Hz, 1H), 8.23 (dd, J=8.66, 2.13 Hz, 1H), 7.96 (dd, J=6.78, 2.51 Hz, 1H), 7.70 (d, J=8.78 Hz, 1H), 7.59-7.65 (m, 1H), 7.27 (t, J=8.91 Hz, 1H), 4.07-4.13 (m, 1H), 4.03 (t, J=6.53 Hz, 1H), 3.77-3.97 (m, 4H), 3.61-3.73 (m, 2H), 3.21-3.30 (m, 1H), 3.11 (dd, J=14.56, 7.53 Hz, 1H), 0.84-1.04 (m, 4H). LCMS: 485/487 [M+1].

reactant | 4-(cyclopropoxy)-3-[(6-hydroxy-1,4-oxazepan-4-yl)sulfonyl]benzoic acid | 475.68 umol, 170.00 mg, 1.00 eq | C1(CC1)OC1=C(C=C(C(=O)O)C=C1)S(=O)(=O)N1CCOCC(C1)O | C15H19NO7S
reactant | 3-chloro-4-fluoro-aniline | 475.68 umol, 69.24 mg, 1.00 eq | ClC=1C=C(N)C=CC1F | C6H5ClFN
reactant | HATU | 475.68 umol, 180.87 mg, 1.00 eq | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 951.36 umol, 122.95 mg, 2.00 eq | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 5.00 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | N-(3-chloro-4-fluoro-phenyl)-4-(cyclopropoxy)-3-[(6-hydroxy-1,4-oxazepan-4-yl)sulfonyl]benzamide | 194.05 umol, 94.10 mg, 40.79% yield | ClC=1C=C(C=CC1F)NC(C1=CC(=C(C=C1)OC1CC1)S(=O)(=O)N1CCOCC(C1)O)=O | C21H22ClFN2O6S
